US08383668B2
{4-[3-(Morpholine-4-carbonyl)-pyrrolidin-1-yl]-phenyl}-(1,3,3-trimethyl-6-aza-bicyclo-[3.2.1]oct-6-yl)-methanone
To a mixture of 1-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-pyrrolidine-3-carboxylic acid (300 mg, 0.81 mmol, prepared as described in ex-ample 1) and HOBT (131 mg, 0.97 mmol) in dry THF (20 ml) was added EDAC (186 mg, 0.97 mmol). The resulting mixture was stirred for 10 min followed by addition of a mixture of DIPEA (219 μl, 1.22 mmol) and morpholine (85 μl, 0.97 mmol). The reaction mixture was stirred for an additional 16 hrs. and evaporated to dryness. The resulting residue was purified by preparative HPLC (Gilson) and pure fractions were collected and evaporated to dryness and dried in vacuo at 50° C. affording 250 mg (70%) of the title compound as a solid.

reactant | 1-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-pyrrolidine-3-carboxylic acid | 0.81 mmol, 300 mg | CC12CC(CC(N(C1)C(=O)C1=CC=C(C=C1)N1CC(CC1)C(=O)O)C2)(C)C | C22H30N2O3
reactant | HOBT | 0.97 mmol, 131 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.97 mmol, 186 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 1.22 mmol, 219 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 0.97 mmol, 85 μl | N1CCOCC1 | C4H9NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | {4-[3-(Morpholine-4-carbonyl)-pyrrolidin-1-yl]-phenyl}-(1,3,3-trimethyl-6-aza-bicyclo-[3.2.1]oct-6-yl)-methanone | 250 mg, 70% | N1(CCOCC1)C(=O)C1CN(CC1)C1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C26H37N3O3
